### PR TITLE
[Merged by Bors] - feat: bounded Lp norm of limit if converge in measure

### PR DESCRIPTION
**Pull request by CoolRmal**
We prove that if the `eLpNorm` of a collection of `AEStronglyMeasurable` functions that converges in measure
is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by `C`.

We also weaken some assumptions in proofs of other theorems.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 1]
```diff
@@ -83,8 +83,24 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
   have hp_pos : 0 < p.toReal := ENNReal.toReal_pos hp0 hp_top
   exact eLpNorm'_lim_le_liminf_eLpNorm' hp_pos hf h_lim
 
+/-- If the `eLpNorm` of a sequence of `AEStronglyMeasurable` functions that converges almost
+everywhere is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
+theorem seq_tendsto_ae_bounded {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞} (p : ℝ≥0∞)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: `p` is already available as a variable in the file, unless you want to make it explicit for some reason?
```suggestion
theorem seq_tendsto_ae_bounded {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
```

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 2]
```diff
@@ -83,8 +83,24 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
...
+    (bound : ∀ n, eLpNorm (f n) p μ ≤ C) (hf : ∀ n, AEStronglyMeasurable (f n) μ)
+    (h_tendsto : ∀ᵐ (x : α) ∂μ, Tendsto (fun n => f n x) atTop (nhds (g x))) :
+    eLpNorm g p μ ≤ C := by
+  calc
+    _ ≤ atTop.liminf (fun (n : ℕ) => eLpNorm (f n) p μ) :=
+      Lp.eLpNorm_lim_le_liminf_eLpNorm (fun n => hf n) g h_tendsto
+    _ ≤ C := by
+      refine liminf_le_of_le (by isBoundedDefault) (fun b hb => ?_)
+      obtain ⟨n, hn⟩ := Filter.eventually_atTop.mp hb
+      exact le_trans (hn n (by linarith)) (bound n)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: If it's true eventually then it's true for one element.
```suggestion
      obtain ⟨n, hn⟩ := hb.exists
      exact hn.trans (bound n)
```

Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: You can use `calc` directly in term mode.
```suggestion
    eLpNorm g p μ ≤ C := calc
  _ ≤ atTop.liminf (fun (n : ℕ) => eLpNorm (f n) p μ) :=
    Lp.eLpNorm_lim_le_liminf_eLpNorm (fun n => hf n) g h_tendsto
  _ ≤ C := by
    refine liminf_le_of_le (by isBoundedDefault) (fun b hb => ?_)
    obtain ⟨n, hn⟩ := Filter.eventually_atTop.mp hb
    exact le_trans (hn n (by linarith)) (bound n)
```

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean (hunk 1 above)
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: I'm not sure about the name here, I think it should mention `eLpNorm`. Maybe something like `eLpNorm_le_of_tendsto_ae`?

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 3]
```diff
@@ -349,6 +349,18 @@ theorem exists_seq_tendstoInMeasure_atTop_iff [IsFiniteMeasure μ]
     tendstoInMeasure_of_tendsto_ae (fun n ↦ hf _) h6
   exact lt_irrefl _ (lt_of_le_of_lt (ge_of_tendsto' (h7 ε hε) (fun n ↦ h3 _)) hδ)
 
+/-- If the `eLpNorm` of a collection of `AEStronglyMeasurable` functions that converges in measure
+is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean]:
```suggestion
is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by `C`. -/
```

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 4]
```diff
@@ -349,6 +349,18 @@ theorem exists_seq_tendstoInMeasure_atTop_iff [IsFiniteMeasure μ]
...
+lemma tendstoInMeasure_bounded
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean]: And here I'd suggest `eLpNorm_le_of_tendstoInMeasure`.

Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean]: I think you can put this one out of the section. That way you don't need to introduce `β`, you can `E` directly. Also note that `α` and `µ` are already available so no need to introduce them.

**Review by EtienneC30 — COMMENTED** [review]
Thanks! Can you change the statements, assuming the `eLpNorm` is only bounded for `n` large (ie using `Filter.Eventually`)?

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 5]
```diff
@@ -83,8 +83,23 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
   have hp_pos : 0 < p.toReal := ENNReal.toReal_pos hp0 hp_top
   exact eLpNorm'_lim_le_liminf_eLpNorm' hp_pos hf h_lim
 
+/-- If the `eLpNorm` of a sequence of `AEStronglyMeasurable` functions that converges almost
+everywhere is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
+theorem eLpNorm_le_of_tendsto_ae {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
+    (bound : ∀ᶠ n in atTop, eLpNorm (f n) p μ ≤ C) (hf : ∀ n, AEStronglyMeasurable (f n) μ)
+    (h_tendsto : ∀ᵐ (x : α) ∂μ, Tendsto (fun n => f n x) atTop (nhds (g x))) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: Great! Just mentioning that you can also write this, as you prefer:
```suggestion
    (h_tendsto : ∀ᵐ (x : α) ∂μ, Tendsto (f · x) atTop (nhds (g x))) :
```
maintainer delegate

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 6]
```diff
@@ -83,8 +83,23 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
   have hp_pos : 0 < p.toReal := ENNReal.toReal_pos hp0 hp_top
   exact eLpNorm'_lim_le_liminf_eLpNorm' hp_pos hf h_lim
 
+/-- If the `eLpNorm` of a sequence of `AEStronglyMeasurable` functions that converges almost
+everywhere is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
+theorem eLpNorm_le_of_tendsto_ae {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]:
```suggestion
theorem eLpNorm_le_of_ae_tendsto {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
```
(The ae comes before the tendsto in the statement)

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 7]
```diff
@@ -351,6 +351,15 @@ theorem exists_seq_tendstoInMeasure_atTop_iff [IsFiniteMeasure μ]
 
 end ExistsSeqTendstoAe
 
+/-- If the `eLpNorm` of a collection of `AEStronglyMeasurable` functions that converges in measure
+is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by `C`. -/
+lemma eLpNorm_le_of_tendstoInMeasure {ι : Type*} [SeminormedAddGroup E]
+    {u : Filter ι} [NeBot u] [IsCountablyGenerated u] {f : ι → α → E} {g : α → E} {C : ℝ≥0∞}
+    (p : ℝ≥0∞) (bound : ∀ᶠ i in u, eLpNorm (f i) p μ ≤ C) (h_tendsto : TendstoInMeasure μ f u g)
+    (hf : ∀ i, AEStronglyMeasurable (f i) μ) : eLpNorm g p μ ≤ C := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:359]: It's strange to have bound only required for large enough i, but `hf` for all `i`. Could you also only require `hf` for large enough `i`?

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:359]: The key lemma used in this proof is [eLpNorm_lim_le_liminf_eLpNorm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSpace/Complete.html#MeasureTheory.Lp.eLpNorm_lim_le_liminf_eLpNorm), which requires every `f i` to be `AEStronglyMeasurable`. It seems like that in the existing library, we often did not adopt the more general assumption `∀ᶠ n in atTop, p (f i)`, where `p` is some property/proposition about a function. For example, [eLpNorm'_lim_le_liminf_eLpNorm'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSpace/Complete.html#MeasureTheory.Lp.eLpNorm'_lim_le_liminf_eLpNorm'), [lintegral_liminf_le'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Lebesgue/Add.html#MeasureTheory.lintegral_liminf_le'), [lintegral_iSup'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Integral/Lebesgue/Add.html#MeasureTheory.lintegral_iSup').

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 8]
```diff
@@ -83,8 +83,23 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
   have hp_pos : 0 < p.toReal := ENNReal.toReal_pos hp0 hp_top
   exact eLpNorm'_lim_le_liminf_eLpNorm' hp_pos hf h_lim
 
+/-- If the `eLpNorm` of a sequence of `AEStronglyMeasurable` functions that converges almost
+everywhere is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
+theorem eLpNorm_le_of_ae_tendsto {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
+    (bound : ∀ᶠ n in atTop, eLpNorm (f n) p μ ≤ C) (hf : ∀ n, AEStronglyMeasurable (f n) μ)
+    (h_tendsto : ∀ᵐ (x : α) ∂μ, Tendsto (f · x) atTop (nhds (g x))) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]:
```suggestion
    (h_tendsto : ∀ᵐ (x : α) ∂μ, Tendsto (f · x) atTop (𝓝 (g x))) :
```

File: Mathlib/MeasureTheory/Function/LpSpace/Complete.lean [hunk 9]
```diff
@@ -83,8 +83,23 @@ theorem eLpNorm_lim_le_liminf_eLpNorm {f : ℕ → α → E}
   have hp_pos : 0 < p.toReal := ENNReal.toReal_pos hp0 hp_top
   exact eLpNorm'_lim_le_liminf_eLpNorm' hp_pos hf h_lim
 
+/-- If the `eLpNorm` of a sequence of `AEStronglyMeasurable` functions that converges almost
+everywhere is bounded by some constant `C`, then the `eLpNorm` of its limit is also bounded by
+`C`. -/
+theorem eLpNorm_le_of_ae_tendsto {f : ℕ → α → E} {g : α → E} {C : ℝ≥0∞}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: Instead of using only the `atTop` filter on the naturals, could you formulate this with a general countably generated nontrivial filter?

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Function/LpSpace/Complete.lean]: Yes.
